US07696181B2
A mixture of 6-chloropurine riboside (0.5 gm, 1.74 mmol), 3-aminotetrahydrofuran (0.325 gm, 2.6 mmol) and triethylamine (0.73 ml, 5.22 mmol) in methanol (10 ml) was heated to 80° C. for 40 hours. The mixture was cooled and concentrated under reduced pressure. The residue was chromatographed on a short column of silica gel, eluting with methylene chloride/methanol/propylamine (90/10/1). The fractions containing the product were combined and concentrated under reduced pressure. The residue was chromatographed on a chromatotron (2 mm plate, 92.5/7.5/1, methylene chloride/methanol/propylamine). The resulting white solid was recrystallized from methanol/ethyl acetate to give 0.27 gm of (4S,2R,3R,5R)-2-hydroxymethyl-5-[6-(tetrahydrofuran-3-ylamino)-purin-9-yl]-tetrahydrofuran-3,4-diol as white crystals (mp 128° C.-130° C.).

reactant | 6-chloropurine riboside | 1.74 mmol, 0.5 gm | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 3-aminotetrahydrofuran | 2.6 mmol, 0.325 gm | NC1COCC1 | C4H9NO
reactant | triethylamine | 5.22 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
product | (4S,2R,3R,5R)-2-hydroxymethyl-5-[6-(tetrahydrofuran-3-ylamino)-purin-9-yl]-tetrahydrofuran-3,4-diol | 0.27 gm | OC[C@H]1O[C@H]([C@H]([C@H]1O)O)N1C2=NC=NC(=C2N=C1)NC1COCC1 | C14H19N5O5
